US04337247
(IV) Production of BOC-Tyr-(D)-Met-Gly-OH
In 30 ml of MeOH is dissolved 2.8 g of BOC-Tyr-(D)-Met-Gly-OEt, after cooling 12 ml of 1 N-aqueous sodium hydroxide is added and the mixture is stirred at room temperature for 1 hour. After cooling, 60 ml of 0.2 N-aqueous HCl is added and resulting crystals are recovered by filtration and washed with cold water. Yield 2.3 g; m.p. 184°-186° C.; Rf1 =0.24; [α]D21 +13.3° (c=0.46; DMF).

reactant | BOC-Tyr-(D)-Met-Gly-OEt | 2.8 g | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)OCC)C(=O)OC(C)(C)C | C23H35N3O7S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | MeOH | 30 ml | CO | CH4O
product | BOC-Tyr-(D)-Met-Gly-OH | N([C@@H](CC1=CC=C(C=C1)O)C(=O)N[C@H](CCSC)C(=O)NCC(=O)O)C(=O)OC(C)(C)C | C21H31N3O7S
